US08357705B2
2-(1H-indol-3-yl)-1-phenylethylamine (135 mg, 0.57 mmol) and 4-dimethylamino-4-phenylcyclohexanone (124 mg, 0.57 mmol) were dissolved in tetrahydrofuran (10 ml) and 1,2-dichloroethane (5 ml) in argon. Glacial acetic acid (0.035 ml, 0.57 mmol) were added to the clear solution. After a reaction time of 15 min the reaction mixture was mixed with NaBH(OAc)3 (180 mg, 0.8 mmol) and stirred for 2 d at room temperature. For work up of the batch the mixture was mixed with saturated NaHCO3 solution (40 ml) and stirred for 15 min. The aqueous phase was extracted with dichloromethane (2×30 ml). The combined organic phases were concentrated to low volume after drying over Na2SO4, and a light brown oil was obtained. The chromatographic separation of the substance mixture on silica gel 60 (50 g) was conducted with methanol (600 ml). The more non-polar amine was obtained as a beige-coloured compound with a yield of 67% (168 mg). No melting point could be determined. The more polar amine was obtained as a beige-coloured compound with a yield of 30% (75 mg). No melting point could be determined.

reactant | 2-(1H-indol-3-yl)-1-phenylethylamine | 0.57 mmol, 135 mg | N1C=C(C2=CC=CC=C12)CC(C1=CC=CC=C1)N | C16H16N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 0.57 mmol, 124 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 0.57 mmol, 0.035 ml | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.8 mmol, 180 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | polar amine | yield of 67% | CN(C)CC[C@@H](C=1C=CC(=CC1)Cl)C=2C=CC=CN2.C(=C\C(=O)O)\C(=O)O | InChI=1S/C16H19ClN2.C4H4O4/c1-19(2)12-10-15(16-5-3-4-11-18-16)13-6-8-14(17)9-7-13;5-3(6)1-2-4(7)8/h3-9,11,15H,10,12H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1-/t15-;/m0./s1
